US08049015B2
2-(5-Bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzaldehyde and benzylamine were reacted as described in Example 17, Step 1 to provide benzyl-[2-(5-bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzyl]-amine.

reactant | 2-(5-Bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzaldehyde | BrC=1C=C(C(=NC1)OC)C1=C(C=O)C=C(C=C1)C(F)(F)F | C14H9BrF3NO2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | benzyl-[2-(5-bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzyl]-amine | C(C1=CC=CC=C1)NCC1=C(C=CC(=C1)C(F)(F)F)C=1C(=NC=C(C1)Br)OC | C21H18BrF3N2O
